US07030107B2
N-[3,5-bis(trifluoromethyl)benzyl]-2-chloro-N-(3-hydroxypropyl)-4-iodonicotinamide (6.86 g) was dissolved in tetrahydrofuran (60 mL). While the mixture was chilled on an ice bath, sodium hydride (581 mg, 60% oil suspension) was added and the mixture was stirred for 30 min. Subsequently, the temperature of the mixture was allowed to rise to room temperature and the mixture was stirred for another hour. While the mixture was chilled on an ice bath, water was added and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and was then dried on anhydrous sodium sulfate. The solvent was removed and the resulting residue was purified on a silica gel column chromatography (ethyl acetate:n-hexane=2:1) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-7-iodo-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (2.69 g, 42%).

reactant | N-[3,5-bis(trifluoromethyl)benzyl]-2-chloro-N-(3-hydroxypropyl)-4-iodonicotinamide | 6.86 g | FC(C=1C=C(CN(C(C2=C(N=CC=C2I)Cl)=O)CCCO)C=C(C1)C(F)(F)F)(F)F | C18H14ClF6IN2O2
reactant | sodium hydride | 581 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 5-[3,5-bis(trifluoromethyl)benzyl]-7-iodo-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 2.69 g, 42% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=CC=C3I)=O)C=C(C1)C(F)(F)F)(F)F | C18H13F6IN2O2
